US04070366
2,4-Dimethyl-3-acetyl-5-neopentyl-pyrrole
2,4-Dimethyl-3 -acetyl-pyrrole (548 mg) was warmed to solution in a mixture of 10 ml of aqueous hydriodic acid, 10 ml of acetic anhydride and 2 ml of hypophosphorous acid. The solution was cooled to 35° C. and 0.85 ml of pivalaldehyde were added. The solution was stirred for ten minutes, by which time the initially dark brown color had changed to yellow, then poured into 125 ml of water. The product separated as a colourless powder (769 mg, 93%), m.p. 156°-163 ° C. For analysis, it was recrystallized from ether-pentane, sublimed at 115° C. (10-4 mm), and again recrystallized by extraction into hexane (thimble) as long colourless plates, m.p. 166°-167° C. after changing to prisms below 130° C. Anal. Calc. for C13H21NO: C, 75.31; H, 10.21; N, 6.76. Found: C, 75.13; H, 10.30; N, 6.58.

reactant | 2,4-Dimethyl-3 -acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
reactant | pivalaldehyde | 0.85 ml | C(C(C)(C)C)=O | C5H10O
solvent | hydriodic acid | 10 ml | I | HI
solvent | water | 125 ml | O | H2O
product | 2,4-Dimethyl-3-acetyl-5-neopentyl-pyrrole | CC=1NC(=C(C1C(C)=O)C)CC(C)(C)C | C13H21NO
